US06774134B2
A suspension of N-hydroxy-4-(2-hydroxymethyl-benzoimidazol-1-yl)-butyramidine, 203, (500 mg, 2.01 mmol) in trimethyl orthoformate (5 mL) in the presence of BF3.OEt2 (50 μL) in a sealed tube was placed in a microwave oven (Smith Creator, Personal Chemistry) and heated at 100° C. for 15 min while stirring, resulting in the dissolution of all the material. The reaction was repeated 5 times. The 6 batches were combined and concentrated in vacuo. The residue was treated with 1M HCl (15 mL) and THF (15 mL) and left overnight. Concentration followed by trituration from dichloromethane and recrystallization from isopropyl alcohol and methanol afforded [1-(3-[1,2,4]oxadiazol-3-yl-propyl)-1H-benzoimidazol-2-yl]-methanol (2.28 g, 73%) as a white solid:

reactant | N-hydroxy-4-(2-hydroxymethyl-benzoimidazol-1-yl)-butyramidine | ONC(CCCN1C(=NC2=C1C=CC=C2)CO)=N | C12H16N4O2
reactant | BF3.OEt2 | 50 μL | B(F)(F)F.CCOCC
solvent | trimethyl orthoformate | 5 mL | C(OC)(OC)OC | C4H10O3
product | [1-(3-[1,2,4]oxadiazol-3-yl-propyl)-1H-benzoimidazol-2-yl]-methanol | 2.28 g, 73% | O1N=C(N=C1)CCCN1C(=NC2=C1C=CC=C2)CO | C13H14N4O2
